US05883106
A. 4Cyano-4-(3-iodophenyl)-3,4,5,6-tetrahydro-2H-pyran
A mixture of 3-iodophenylacetonitrile (2.43 g, 10 mmol), bis-(2-chloroethyl)ether (1.57 g, 11 mmol), hexadecyltributylphosphonium bromide (250 mg, 0.5 mmol) and 50% aqueous sodium hydroxide (20 ml) was stirred vigorously for 1 h at room temperature. The mixture was neutralized with 6N aqueous HCl, transferred to a separatory funnel and extracted with ethyl acetate (50 ml×3). The combined extracts were washed with 2N aqueous HCl (50 ml), water (50 ml) and brine (50 ml), dried (MgSO4) and concentrated in vacuo. The residual crude solids were collected and washed with cold Et2O (30 ml) to afford 2.38 g (76%) of the titled compound as white solids.

reactant | 3-iodophenylacetonitrile | 10 mmol, 2.43 g | IC=1C=C(C=CC1)CC#N | C8H6IN
reactant | bis-(2-chloroethyl)ether | 11 mmol, 1.57 g | ClCCOCCCl | C4H8Cl2O
reactant | HCl | 6N | Cl | ClH
catalyst | hexadecyltributylphosphonium bromide | 0.5 mmol, 250 mg | [Br-].C(CCCCCCCCCCCCCCC)[P+](CCCC)(CCCC)CCCC
solvent | sodium hydroxide | 20 ml | [OH-].[Na+]
product | 4Cyano-4-(3-iodophenyl)-3,4,5,6-tetrahydro-2H-pyran | 2.38 g, 76% | C(#N)C1(CCOCC1)C1=CC(=CC=C1)I | C12H12INO
